US08445510B2
1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-1H-pyrazole
A mixture of 4-iodopyrazole (1.00 g, 5.16 mmol), ((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate (1.624 g, 5.671 mmol), Cs2CO3 (2.52 g, 7.73 mmol) and DMF (5 mL, 60 mmol) was heated to 100° C. for 2 h. The solution was extracted with EtOAc, and washed with water (2×). The organic layer was concentrated in vacuo and purified via column chromatography, eluting with 2-10% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.34 (d, J=8.8 Hz, 6H), 3.76 (dd, J=8.6, 6.1 Hz, 1H), 4.08 (dd, J=8.6, 6.3 Hz, 1H), 4.23-4.37 (m, 2H), 4.39-4.46 (m, 1H), 7.50-7.55 (m, 1H), 7.77 (s, 1H). MS (ES+): m/z=309.01 (100) [MH+]. HPLC: tR=1.34 min (polar—3 min, UPLC-ACQUITY).

reactant | 4-iodopyrazole | 5.16 mmol, 1.00 g | IC=1C=NNC1 | C3H3IN2
reactant | ((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate | 5.671 mmol, 1.624 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
reactant | Cs2CO3 | 7.73 mmol, 2.52 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 60 mmol, 5 mL | CN(C)C=O | C3H7NO
product | 1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-1H-pyrazole | CC1(OC[C@H](O1)CN1N=CC(=C1)I)C | C9H13IN2O2
